US07119088B2
Acetic acid 2-(2-acetylamino-5-chloro-phenyl)-ethyl ester
A solution of chlorine in glacial acetic acid (0.98M, 30 ml) was added dropwise to a solution of N-[2-(2-Hydroxy-ethyl)-phenyl]-acetamide (5.0 g, 27.9 mmol)(see reference Biochemistry 1979, 18(5), 860) in glacial acetic acid (50 ml) and the mixture was stirred at room temperature for 20 hours. The glacial acetic acid was removed under reduced pressure. The resulting oil was triturated with diethyl ether to give the title compound (3.3 g) as a pale yellow solid after filtration.

reactant | chlorine | ClCl | Cl2
reactant | N-[2-(2-Hydroxy-ethyl)-phenyl]-acetamide | 27.9 mmol, 5.0 g | OCCC1=C(C=CC=C1)NC(C)=O | C10H13NO2
reactant | acetic acid | 0.98M, 30 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | Acetic acid 2-(2-acetylamino-5-chloro-phenyl)-ethyl ester | 3.3 g | C(C)(=O)NC1=C(C=C(C=C1)Cl)CCOC(C)=O | C12H14ClNO3
